US04897490
Ethyl 3,3-bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenoate
To a suspension of 0.64 g (16 mmol) 50% sodium hydride in 7.5 mL of dry dimethylformamide was added 5.7 g (16 mmol) of ethyl 3,3-bis(4-fluorophenyl)-2-(1H-tetrazol-5-yl)-2-propenoate and the resultant mixture stirred for 30 minutes. To the resultant solution, 5.7 g (18 mmol) bromotriphenylmethane was added and the mixture stirred for 24 hours. The mixture was diluted to 200 mL with water and the insoluble collected by filtration. The product was recrystallized from ethyl acetate to give 6.1 g of the title compound; m.p.=161°-162° C. (dec).

reactant | sodium hydride | 16 mmol, 0.64 g | [H-].[Na+]
reactant | ethyl 3,3-bis(4-fluorophenyl)-2-(1H-tetrazol-5-yl)-2-propenoate | 16 mmol, 5.7 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C1=NN=NN1)C1=CC=C(C=C1)F | C18H14F2N4O2
reactant | bromotriphenylmethane | 18 mmol, 5.7 g | BrC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Br
solvent | dimethylformamide | 7.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl 3,3-bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenoate | 6.1 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C37H28F2N4O2
